US04914093
6-[3-Chloro-4-(ethoxycarbonylmethoxy)phenyl]-4,5-dihydro-3(2H)-pyridazinone (Compound No. 6a)
1.79 g of 6-(3-chloro-4-hydroxyphenyl)-4,5-dihydro-3(2H)-pyridazinone (prepared as in Preparation 8) was dissolved in 15 ml of anhydrous dimethylformamide. 0.35 g of a 55% w/w suspension of sodium hydride in mineral oil was added, and the solution was stirred for 1 hour. To this solution, was added, whilst ice-cooling, 1 ml of a dimethylformamide solution containing 1.34 g of ethyl bromoacetate, and the mixture was stirred for 1 hour at room temperature and then for 3 hours at 80° C. At the end of this time, the dimethylforamide was distilled off under reduced pressure and the mixture was diluted with water and then extracted with ethyl acetate. The extract was washed with water, dried and then evaporated to dryness. The addition of hexane precipitated 1.85 g of the title compound as white needles melting at 134°-136° C.

reactant | 6-(3-chloro-4-hydroxyphenyl)-4,5-dihydro-3(2H)-pyridazinone | 1.79 g | ClC=1C=C(C=CC1O)C=1CCC(NN1)=O | C10H9ClN2O2
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl bromoacetate | 1.34 g | BrCC(=O)OCC | C4H7BrO2
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 6-[3-Chloro-4-(ethoxycarbonylmethoxy)phenyl]-4,5-dihydro-3(2H)-pyridazinone | ClC=1C=C(C=CC1OCC(=O)OCC)C=1CCC(NN1)=O | C14H15ClN2O4
